US05185351
(v) 2-n-butyl-1-(4-carbomethoxy-3-methoxymethoxyphenyl)methyl-1-H-imidazol-5-carboxaldehyde
To a suspension of 0.32 g of 10% palladium on carbon in 15 mL of methanol containing potassium acetate (0.813 g, 8.28 mmol) was added a solution of 2-n-butyl-1-(4-carbomethoxy-3-methoxymethoxyphenyl)methyl-4-chloro-1H-imidazol-5-carboxaldehyde (3.27 g, 8.28 mmol) in 60 mL of methanol. The reaction was hydrogenated at 4 psi for 40 minutes. The solid was filtered and the filtrate was concentrated in vacuo. The residue was partitioned between diethyl ether and water. The pH of the aqueous layer was adjusted to 7.5 with 5% sodium carbonate solution. The layers were separated and the organic layer was washed with brine and dried with magnesium sulfate. The solvent was removed in vacuo to give 2.59 g (87%) of product as an oil.

reactant | potassium acetate | 8.28 mmol, 0.813 g | C(C)(=O)[O-].[K+]
reactant | 2-n-butyl-1-(4-carbomethoxy-3-methoxymethoxyphenyl)methyl-4-chloro-1H-imidazol-5-carboxaldehyde | 8.28 mmol, 3.27 g | C(CCC)C=1N(C(=C(N1)Cl)C=O)CC1=CC(=C(C=C1)C(=O)OC)OCOC | C19H23ClN2O5
catalyst | palladium on carbon | 0.32 g | [Pd] | Pd
solvent | methanol | 15 mL | CO | CH4O
solvent | methanol | 60 mL | CO | CH4O
product | 2-n-butyl-1-(4-carbomethoxy-3-methoxymethoxyphenyl)methyl-1-H-imidazol-5-carboxaldehyde | 2.59 g, 87% | C(CCC)C=1N(C(=CN1)C=O)CC1=CC(=C(C=C1)C(=O)OC)OCOC | C19H24N2O5
